US07550480B2
22d) N-(2-chlorophenyl)-3-[2,6-dichloro-4-(2-chlorophenyl)-3-pyridinyl]propanamide
2-Chloroaniline (0.87 ml, 8.21 mmol) in dichloromethane (80 ml) was treated with 2M trimethylaluminium in toluene (4.1 ml, 8.2 mmol) at 0-5° under nitrogen. After stirring for 15 min. a solution of methyl 3-[2,6-dichloro-4-(2-chlorophenyl)-3-pyridinyl]propanoate (1.40 g, 4.063 mmol) in dichloromethane (40 ml) was added and the solution stirred at 21° for 17 h. Water (15 ml) was added (very slowly at first), followed by sufficient 2M hydrochloric acid to dissolve all the precipitated aluminium salts. The organic phase was separated and the aqueous phase further extracted with dichloromethane (50 ml). The combined organic extracts passed through a hydrophobic frit, evaporated in vacuo, and the oily residue purified by column chromatography over silica (70 g) eluting with cyclohexane-ethyl acetate (100:0-65:35) to afford the title compound as a gum (1.52 g, 85%).

reactant | 2-Chloroaniline | 8.21 mmol, 0.87 ml | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | trimethylaluminium | 2M | C[Al](C)C
reactant | toluene | 8.2 mmol, 4.1 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl 3-[2,6-dichloro-4-(2-chlorophenyl)-3-pyridinyl]propanoate | 4.063 mmol, 1.40 g | ClC1=NC(=CC(=C1CCC(=O)OC)C1=C(C=CC=C1)Cl)Cl | C15H12Cl3NO2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | Water | 15 ml | O | H2O
product | N-(2-chlorophenyl)-3-[2,6-dichloro-4-(2-chlorophenyl)-3-pyridinyl]propanamide | 1.52 g, 85% | ClC1=C(C=CC=C1)NC(CCC=1C(=NC(=CC1C1=C(C=CC=C1)Cl)Cl)Cl)=O | C20H14Cl4N2O
